US07410966B2
a) 5-(6-Bromo-3H-imidazo[45-b]pyridin-2-yl)pyridin-2-ol
Polyphosphoric acid (3 g) was heated to 140° C. and 2,3-diamino-5-bromopyridine (417 mg, 2.22-mmol) and 6-chloronicotinic acid (525 mg, 3.33 mmol) were added. The reaction mixture was stirred overnight at 140° C. After cooling, ice was added and the pH adjusted to 7 with a saturated solution of sodium hydrogen carbonate. A precipitate was formed which was filtered off and washed with ethyl acetate to afford the title compound (341 mg, 53%).

reactant | 2,3-diamino-5-bromopyridine | 2.22-mmol, 417 mg | NC1=NC=C(C=C1N)Br | C5H6BrN3
reactant | 6-chloronicotinic acid | 3.33 mmol, 525 mg | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 5-(6-Bromo-3H-imidazo[45-b]pyridin-2-yl)pyridin-2-ol | 341 mg, 53% | BrC=1C=C2C(=NC1)NC(=N2)C=2C=CC(=NC2)O | C11H7BrN4O
